US08084448B2
A. 2-((E)-4-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-but-3-enyl)-isoindole-1,3-dione
To a solution of 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (100 mg, 0.184 mmol) in MeCN (5 mL) in a pressure tube is added 2-but-3-enylisoindole-1,3-dione (41 mg, 0.202 mmol), Pd(OAc)2 (3 mg) and triethylamine (186 mg, 1.84 mmol) then the mixture is heated at 100° C. for 10 h. The solvent is removed under reduced pressure and the residue is purified by flash chromatography using a gradient of 20-40% EtOAc/hexane as eluent to give the title compound: (M+NH4)+=635.

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 0.184 mmol, 100 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
reactant | 2-but-3-enylisoindole-1,3-dione | 0.202 mmol, 41 mg | C(CC=C)N1C(C2=CC=CC=C2C1=O)=O | C12H11NO2
reactant | triethylamine | 1.84 mmol, 186 mg | C(C)N(CC)CC | C6H15N
solvent | MeCN | 5 mL | CC#N | C2H3N
catalyst | Pd(OAc)2 | 3 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-((E)-4-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-but-3-enyl)-isoindole-1,3-dione | C(C1=CC=CC=C1)OC=1C=C(C=CC1N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)/C=C/CCN1C(C2=CC=CC=C2C1=O)=O | C32H35N3O6SSi
